US06884821B1
Using 3,4-dichlorobenzyl alcohol and 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 3-(3-[(3,4-dichlorobenzyl)oxy]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 247).

reactant | 3,4-dichlorobenzyl alcohol | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | BrCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 3-(3-[(3,4-dichlorobenzyl)oxy]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | ClC=1C=C(COCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC1Cl | C21H24Cl2O5
